US06599917B1
b) 3-Benzyl-5-bromo-2-methoxypyridine
0.12 ml of bromine was added to a mixture of 430 mg of 3-benzyl-2-methoxypyridine, 460 mg of sodium bicarbonate and 10 ml of methanol under stirring in an ice bath, followed by stirring at room temperature for 8 hours. The mixture was partitioned by adding an aqueous sodium thiosulfate solution and ethyl acetate thereto. The organic phase was washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was removed. The residue was subjected to silica gel column chromatography and eluted with 5% ethyl acetate/hexane, to give 140 mg of the target compound.

reactant | bromine | 0.12 ml | BrBr | Br2
reactant | 3-benzyl-2-methoxypyridine | 430 mg | C(C1=CC=CC=C1)C=1C(=NC=CC1)OC | C13H13NO
reactant | sodium bicarbonate | 460 mg | C([O-])(O)=O.[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 3-Benzyl-5-bromo-2-methoxypyridine | 140 mg | C(C1=CC=CC=C1)C=1C(=NC=C(C1)Br)OC | C13H12BrNO
